US07759389B2
(1-{2-[7-(3-Fluoro-benzenesulfonyl)-chroman-4-yl]-ethyl}-pyrrolidin-3-yl)-methyl-carbamic acid tert-butyl ester (0.9 g) was dissolved in 2N HCl in EtOH (2 ml) and the mixture was heated at 60° C. for 40 minutes. The reaction mixture was cooled to room temperature and was quenched with saturated NaHCO3, extracted with methylene chloride, dried with MgSO4, filtered, concentrated and purified with preparative TLC (10% MeOH in methylene chloride with 1% Et3N) to give (1-{2-[7-(3-fluoro-benzenesulfonyl)-chroman-4-yl]-ethyl}-pyrrolidin-3-yl)-methyl-amine, which was treated with a few drops of 2N HCl in EtOH and dried under vacuum to give (1-{2-[7-(3-Fluoro-benzenesulfonyl)-chroman-4-yl]-ethyl}-pyrrolidin-3-yl)-methyl-amine HCl salt: 61.8 mg, MS: 419.5 (M+H)+.

reactant | (1-{2-[7-(3-Fluoro-benzenesulfonyl)-chroman-4-yl]-ethyl}-pyrrolidin-3-yl)-methyl-carbamic acid tert-butyl ester | 0.9 g | C(C)(C)(C)OC(N(C)C1CN(CC1)CCC1CCOC2=CC(=CC=C12)S(=O)(=O)C1=CC(=CC=C1)F)=O | C27H35FN2O5S
solvent | HCl | 2N | Cl | ClH
solvent | EtOH | 2 ml | CCO | C2H6O
product | (1-{2-[7-(3-fluoro-benzenesulfonyl)-chroman-4-yl]-ethyl}-pyrrolidin-3-yl)-methyl-amine | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)CCN1CC(CC1)NC | C22H27FN2O3S
